US08053438B2
1H-Benzimidazol-2-yl(4-((3-(5,6-dihydro-2H-pyran-3-yl)-2-pyrazinyl)oxy)phenyl)methanone (0.20 g, 0.50 mmol) was suspended in 15 mL of EtOAc in a pressure tube. Palladium on carbon, 10% (0.20 g) was added. The mixture was hydrogenated at 50 psi. After 24 hours, the mixture was filtered through celite and eluted with 50 mL of 9:1 chloroform:isopropanol. The product was taken up in 10 mL of dichloromethane. Manganese dioxide (0.58 g, 6.7 mmol) was added. After 1 h, the mixture was filtered through celite and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (0 to 2% MeOH/dichloromethane) affording 1H-benzimidazol-2-yl(4-((3-(tetrahydro-2H-pyran-3-yl)-2-pyrazinyl)oxy)phenyl)methanone. MS (ESI, pos. ion) m/z: 401 (M+1). IC50 (uM) +++++.

reactant | 1H-Benzimidazol-2-yl(4-((3-(5,6-dihydro-2H-pyran-3-yl)-2-pyrazinyl)oxy)phenyl)methanone | 0.50 mmol, 0.20 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2COCCC2 | C23H18N4O3
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium on carbon | [Pd] | Pd
catalyst | Manganese dioxide | 6.7 mmol, 0.58 g | [O-2].[O-2].[Mn+4]
product | 1H-benzimidazol-2-yl(4-((3-(tetrahydro-2H-pyran-3-yl)-2-pyrazinyl)oxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2COCCC2 | C23H20N4O3
